US05162312
b) 17beta-ethoxy-3-methoxy-estra-1,3,5(10),16-tetraene
5 g of 17,17-diethoxy-3-methoxy-estra-1,3,5(10)-triene is dissolved in 20 ml of mesitylene and after addition of 0.3 g of KHSO4 under inert gas is heated within 30 minutes to 40 minutes to 140° C. to 160° C. and is gradually distilled off from the solvent. Then, it is heated for 2 more hours in a vacuum at this temperature and the remaining solvent is distilled off. The remaining residue is used in the next step in the form of an oil without purification. IR[cm-1 ]: 1500, 1575, 1620 (aromatic); 1620 (enol ether superimposed).

reactant | 17,17-diethoxy-3-methoxy-estra-1,3,5(10)-triene | 5 g | C(C)OC1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)OCC | C23H34O3
reactant | KHSO4 | 0.3 g | OS(=O)(=O)[O-].[K+]
solvent | mesitylene | 20 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 17beta-ethoxy-3-methoxy-estra-1,3,5(10),16-tetraene | CCOC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C21H28O2
